US07910613B2
5-(2-Methyl-2H-tetrazol-5-yl)-4-thiophen-2-yl-thiazol-2-ylamine
Prepared from 2-(1H-tetrazol-5-yl)-1-thiophen-2-yl-ethanone and MeI and thiourea.

reactant | 2-(1H-tetrazol-5-yl)-1-thiophen-2-yl-ethanone | N1N=NN=C1CC(=O)C=1SC=CC1 | C7H6N4OS
reactant | MeI | CI | CH3I
reactant | thiourea | NC(=S)N | CH4N2S
product | 5-(2-Methyl-2H-tetrazol-5-yl)-4-thiophen-2-yl-thiazol-2-ylamine | CN1N=C(N=N1)C1=C(N=C(S1)N)C=1SC=CC1 | C9H8N6S2
